US05739157
N-methylmorpholine (46 ml) was added to a mixture of L-valyl-L-proline hydrochloride (34 g) in THF (850 ml), followed by trimethylchlorosilane (41 ml) maintaining the temperature below 30° C. The mixture was stirred for 2 hours and then cooled to 0° C. Further N-methylmorpholine (16.5 ml) was added, followed by a solution of 4-anisoyl chloride (18 ml) in THF (25 ml), maintaining the temperature below 5° C. After 15 minutes, the mixture was filtered and the filtrate concentrated in vacuo to a yellow oil. The oil was dissolved in ethyl acetate (100 ml) and basified to pH 7-8 with saturated potassium bicarbonate solution (100 ml). The aqueous layer was separated and washed with ethyl acetate (50 ml). The aqueous layer was then acidified to pH 2-3 with 2M hydrochloric acid solution and extracted with ethyl acetate (150 ml). The organic extract was concentrated under vacuum and toluene (150 ml) was added. The solution was again concentrated under vacuum until about 50 ml of toluene was collected. The solution was then added dropwise to hexane (400 ml) with stirring to give a white solid, which was filtered, washed with hexane and dried under vacuum to give N-(4-methoxybenzoyl)-L-valyl-L-proline (40 g), having a similar NMR to that given in Procedure 1, step (iii) above.

reactant | N-methylmorpholine | 46 ml | CN1CCOCC1 | C5H11NO
reactant | L-valyl-L-proline hydrochloride | 34 g | Cl.N[C@@H](C(C)C)C(=O)N1[C@H](C(=O)O)CCC1
reactant | trimethylchlorosilane | 41 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | N-methylmorpholine | 16.5 ml | CN1CCOCC1 | C5H11NO
reactant | 4-anisoyl chloride | 18 ml | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
solvent | THF | 850 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | N-(4-methoxybenzoyl)-L-valyl-L-proline | 40 g | COC1=CC=C(C(=O)N[C@@H](C(C)C)C(=O)N2[C@H](C(=O)O)CCC2)C=C1 | C18H24N2O5
